US07288544B2
2) Synthesis of 4-[4-(3,5-dichlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester:
355 mg (1.20 mmol) of acetoacetic acid 3,3-diphenylpropyl ester and 277 mg (3.59 mmol) of ammonium acetate were stirred in 15 ml of 2-propanol at 55° C. overnight. After evaporating 2-propanol under reduced pressure, ethyl acetate was added and the reaction mixture was washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained substance was dissolved in 15 ml of 2-propanol. 513 mg (1.20 mmol) of 4-[2-acetyl-3-(3,5-dichlorophenyl)-2-propenoyl] piperazine-1-carboxylic acid-t-butyl ester was added and stirred at 70° C. overnight. After evaporating 2-propanol under reduced pressure, the residue was purified by the silica gel chromatography (dichloromethane/methanol=100/1 to 50/1) to obtain the title compound.

reactant | acetoacetic acid 3,3-diphenylpropyl ester | 1.20 mmol, 355 mg | C1(=CC=CC=C1)C(CCOC(CC(=O)C)=O)C1=CC=CC=C1 | C19H20O3
reactant | ammonium acetate | 3.59 mmol, 277 mg | C(C)(=O)[O-].[NH4+]
reactant | 4-[2-acetyl-3-(3,5-dichlorophenyl)-2-propenoyl] piperazine-1-carboxylic acid-t-butyl ester | 1.20 mmol, 513 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=CC1=CC(=CC(=C1)Cl)Cl)C(C)=O)=O | C20H24Cl2N2O4
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
product | 4-[4-(3,5-dichlorophenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC(=CC(=C1)Cl)Cl)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C39H43Cl2N3O5
